US05683623
1-Iodo-4-octoxybenzene
Quantities: anhydrous potassium carbonate (30 g, 0.22 mol), 1-bromooctane (11.7 g, 0.06 mol) and 4-iodophenol (11.0 g, 0.05 mol). The experimental procedure was as described in Example 119.

reactant | potassium carbonate | 0.22 mol, 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromooctane | 0.06 mol, 11.7 g | BrCCCCCCCC | C8H17Br
reactant | 4-iodophenol | 0.05 mol, 11.0 g | IC1=CC=C(C=C1)O | C6H5IO
product | 1-Iodo-4-octoxybenzene | IC1=CC=C(C=C1)OCCCCCCCC | C14H21IO
